US06924391B2
Ethyl 2,2-difluoro-3-(4-methoxyphenyl)-propionate
A solution of ethyl 2,2-difluoro-3-iodo-3-(4-methoxyphenyl)-propionate (5.24 g, 14.2 mmol) in toluene (125 ml) was treated with tributyltin hydride (28.9 g, 0.10 mol) and a few crystals of 2,2′-azobisisobutyronitrile. The resulting solution was then irradiated for 15 minutes at 25° C. with a sun lamp. The solvent was then evaporated in vacuo and the residue was partitioned between acetonitrile and pentane. The acetonitrile fraction was concentrated and chromatographed on silica gel (elution hexane-ethyl acetate, 85:15) to give 2.65 g (76%) of the title material as an oil: bp 90-95° C./0.1 torr (air bath temperature).

reactant | ethyl 2,2-difluoro-3-iodo-3-(4-methoxyphenyl)-propionate | 14.2 mmol, 5.24 g | FC(C(=O)OCC)(C(C1=CC=C(C=C1)OC)I)F | C12H13F2IO3
reactant | tributyltin hydride | 0.10 mol, 28.9 g | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,2-difluoro-3-(4-methoxyphenyl)-propionate | 2.65 g, 76% | FC(C(=O)OCC)(CC1=CC=C(C=C1)OC)F | C12H14F2O3
